US04841067
To a solution of 17.40 g of ethyl succinate and 15.62 g of 1-naphthaldehyde in 100 ml of absolute ethanol was added 6.00 g of sodium hydride (50% dispersion in mineral oil), and the mixture was heated under reflux for 3 hours. The reaction mixture was evaporated under reduced pressure, and water was added to the residue. The mixture was extracted with diethyl ether to remove neutral materials. The aqueous layer was acidified by adding concentrated hydrochloric acid, and extracted with diethyl ether. The ethereal layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to obtain 23.60 g of 3-ethoxycarbonyl-4-(1-naphthyl)-3-butenoic acid as a yellow oil. A mixture of 200 ml of a 1N-aqueous sodium hydroxide solution and 170 ml of ethanol was added to 23.50 g of the butenoic acid obtained. The mixture was heated at 50° C. for 1.5 hours. The reaction mixture was evaporated under reduced pressure, and water was added to the residue. The mixture was extracted with diethyl ether to remove neutral materials. The ethereal layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to obtain 15.30 g of 2-(1-naphthylmethylene)succinic acid as yellow crystals.

reactant | ethyl succinate | 17.40 g | C(CCC(=O)[O-])(=O)OCC
reactant | 1-naphthaldehyde | 15.62 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium hydride | 6.00 g | [H-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-ethoxycarbonyl-4-(1-naphthyl)-3-butenoic acid | 23.60 g | C(C)OC(=O)C(CC(=O)O)=CC1=CC=CC2=CC=CC=C12 | C17H16O4
